US07399778B2
B. 2-Ethyl-1-[1-(4-fluorobenzyl)-1H-1,2,4-triazol-5-yl]butan-1-ol
To a stirred solution of 1-(4-fluorobenzyl)-1H-1,2,4-triazole (0.500 g, 2.82 mmol) in THF (30 mL) at −78° C. was added a solution of n-butyllithium (2.5M in hexanes, 1.1 mL, 2.9 mmol) dropwise. The mixture was stirred at −78° C. for 1.5 h, then 2-ethylbutyraldehyde (0.42 mL, 3.4 mmol) was added. The solution was slowly warmed to room temperature and stirred i 8 h. It was then quenched with saturated aqueous NH4Cl and extracted twice with EtOAc. The organic extracts were dried (MgSO4), filtered, concentrated in vacuo and purified by column chromatography (SiO2, EtOAc/hexane, 1:1) to yield an oil in 47% yield.

reactant | 1-(4-fluorobenzyl)-1H-1,2,4-triazole | 2.82 mmol, 0.500 g | FC1=CC=C(CN2N=CN=C2)C=C1 | C9H8FN3
reactant | n-butyllithium | 2.9 mmol, 2.5M, 1.1 mL | C(CCC)[Li]
reactant | 2-ethylbutyraldehyde | 3.4 mmol, 0.42 mL | C(C)C(C=O)CC | C6H12O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-1-[1-(4-fluorobenzyl)-1H-1,2,4-triazol-5-yl]butan-1-ol | 47% yield | C(C)C(C(O)C1=NC=NN1CC1=CC=C(C=C1)F)CC | C15H20FN3O
